US06436923B1
A. N-(4-Fluorophenyl)-3-(4-hydroxyphenyl)-N-{2-[3-(phenylmethoxy)phenyl]ethyl}propanamide
The title compound was prepared as described in Example 44.D using (4-fluorophenyl){2-[3-(phenylmethoxy)phenyl]ethyl}amine (1.4 g, 4.36 mmol) and 3-(4-hydroxyphenyl)propanoic acid (1.01 g, 6.11 mmol) to provide the title compound (1.82 g, 89% yield): ES-MS (m/z) 470 [M+H]+.

reactant | (4-fluorophenyl){2-[3-(phenylmethoxy)phenyl]ethyl}amine | 4.36 mmol, 1.4 g | FC1=CC=C(C=C1)NCCC1=CC(=CC=C1)OCC1=CC=CC=C1 | C21H20FNO
reactant | 3-(4-hydroxyphenyl)propanoic acid | 6.11 mmol, 1.01 g | OC1=CC=C(C=C1)CCC(=O)O | C9H10O3
product | N-(4-Fluorophenyl)-3-(4-hydroxyphenyl)-N-{2-[3-(phenylmethoxy)phenyl]ethyl}propanamide | 1.82 g, 89% yield | FC1=CC=C(C=C1)N(C(CCC1=CC=C(C=C1)O)=O)CCC1=CC(=CC=C1)OCC1=CC=CC=C1 | C30H28FNO3
